US07678818B2
A mixture of 2.03 ml of ethyl 3-aminocrotonate (16 mmol) and 1.59 g of cyclopropyl iso-thiocyanate (16 mmol) was heated to 100° C. for 5 h. The reaction mixture was then cooled to 0° C. and diethyl ether (5 ml) and a small amount of heptane were added. An oily precipitate formed and after 5 min the solvents were decanted off. The remaining residue was triturated with a small amount of diethyl ether at 0° C. The precipitate was then filtered off and dried to give 1.64 g (45%) of 3-amino-2-cyclopropylthiocarbamoyl-but-2-enoic acid ethyl ester as a yellow solid. 1HNMR (DMSO-d6, 300 MHz): δ 0.60 (m, 2H), 0.76 (m, 2H), 1.11 (t, J=7.1 Hz, 3H), 1.90 (s, 3H), 3.28 (m, 1H), 3.97 (q, J=7.1 Hz, 2H), 7.24 (br s, 1H), 8.21 (br s, 1H), 9.79 (d, J=5.5 Hz, 1H).

reactant | ethyl 3-aminocrotonate | 16 mmol, 2.03 ml | N\C(=C/C(=O)OCC)\C | C6H11NO2
reactant | cyclopropyl iso-thiocyanate | 16 mmol, 1.59 g | C1(CC1)N=C=S | C4H5NS
reactant | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | heptane | CCCCCCC | C7H16
product | 3-amino-2-cyclopropylthiocarbamoyl-but-2-enoic acid ethyl ester | 1.64 g, 45% | C(C)OC(C(=C(C)N)C(NC1CC1)=S)=O | C10H16N2O2S
